US07902226B2
3-(R)-[1-[N-(tert-butoxycarbonyl)-N-(methyl)amino]cyclopropyl]pyrrolidine
3-(R)-[1-[N-(tert-butoxycarbonyl)-N-(methyl)amino]cyclopropyl]-1-[1-(S)-phenylethyl]pyrrolidine (7.19 g, 20.9 mmol) was dissolved in ethanol (78 ml), and after adding a 10% palladium carbon catalyst (water content: 50%; 3.9 g), it was stirred at 40° C. for 4 hours under a hydrogen atmosphere at atmospheric pressure. After performing filtration through cellite (ethanol washing), the filtrate was concentrated under a reduced pressure. As a result, 4.38 g (quantitative) of the title compound was obtained in the form of a colorless syrup. The 1H-NMR data and the TLC Rf value of this resulting compound agreed with the data indicated previously.

reactant | 3-(R)-[1-[N-(tert-butoxycarbonyl)-N-(methyl)amino]cyclopropyl]-1-[1-(S)-phenylethyl]pyrrolidine | 20.9 mmol, 7.19 g | C(C)(C)(C)OC(=O)N(C)C1(CC1)[C@H]1CN(CC1)[C@@H](C)C1=CC=CC=C1 | C21H32N2O2
solvent | ethanol | 78 ml | C(C)O | C2H6O
catalyst | palladium carbon | 3.9 g | [C].[Pd]
product | 3-(R)-[1-[N-(tert-butoxycarbonyl)-N-(methyl)amino]cyclopropyl]pyrrolidine | C(C)(C)(C)OC(=O)N(C)C1(CC1)[C@H]1CNCC1 | C13H24N2O2
